US06699904B2
A solution of 2-ethoxy-3-{4-[2-(1-heptyl-3-methyl-3-phenyl-ureido)-ethyl]-phenyl}-propionic acid methyl ester (98 mg, 0.20 mmol) and 1 M LiOH (0.60 mmol, 0.60 mL) in tetrahydrofuran (1 mL) was allowed to stir at room temperature for 16 hours. 2 N HCL was then added until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 2-ethoxy-3-{4-[2-(1-heptyl-3-methyl-3-phenyl-ureido)-ethyl]-phenyl}-propionic acid as a clear oil (73 mg, 78%).

reactant | 2-ethoxy-3-{4-[2-(1-heptyl-3-methyl-3-phenyl-ureido)-ethyl]-phenyl}-propionic acid methyl ester | 0.20 mmol, 98 mg | COC(C(CC1=CC=C(C=C1)CCN(C(=O)N(C1=CC=CC=C1)C)CCCCCCC)OCC)=O | C29H42N2O4
reactant | LiOH | 0.60 mmol, 1 M, 0.60 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-ethoxy-3-{4-[2-(1-heptyl-3-methyl-3-phenyl-ureido)-ethyl]-phenyl}-propionic acid | 73 mg, 78% | C(C)OC(C(=O)O)CC1=CC=C(C=C1)CCN(C(=O)N(C1=CC=CC=C1)C)CCCCCCC | C28H40N2O4
